US05420128
7-Hydroxy-6-(N-phenylcarbamoyl)-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine
Dissolving 280 mg of 7-hydroxy-6-ethoxycarbonyl-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine in 3 ml of aniline, the mixture was stirred for 3 hours at 180° C. After allowing to cool, 10% hydrochloric acid was added, the precipitate was filtered, washed with water and dried, and the title compound was obtained (220 mg, 68%).

reactant | 7-hydroxy-6-ethoxycarbonyl-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | 280 mg | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)C(=O)OCC | C21H17N3O3S
reactant | hydrochloric acid | Cl | ClH
reactant | aniline | 3 ml | NC1=CC=CC=C1 | C6H7N
product | 7-Hydroxy-6-(N-phenylcarbamoyl)-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)C(NC2=CC=CC=C2)=O | C25H18N4O2S
